US08466282B2
Ethyl 3-(2-phenylethyl)imidazo[1,2-a]pyridine-2-carboxylate
To a solution of ethyl 3-bromo-2-oxo-5-phenylpentanoate (1.9 g) in THF (10 ml) was added 2-aminopyridine (600 mg) at room temperature, and the reaction mixture was heated under reflux for 15 hr. The precipitated crystals were collected by filtration, washed with THF to give 2-amino-1-[3-ethoxy-2,3-dioxo-1-(2-phenylethyl)propyl]pyridinium bromide (1.36 g). 2-Amino-1-[3-ethoxy-2,3-dioxo-1-(2-phenylethyl)propyl]pyridinium bromide (1.36 g) was dissolved in ethanol (10 ml), and the mixture was refluxed under heating for 3 hr. The reaction mixture was concentrated, and dissolved in dichloromethane. The solution was washed successively with aqueous sodium bicarbonate and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-diethyl ether to give the object product (950 mg).

reactant | 2-Amino-1-[3-ethoxy-2,3-dioxo-1-(2-phenylethyl)propyl]pyridinium bromide | 1.36 g | [Br-].NC1=[N+](C=CC=C1)C(C(C(=O)OCC)=O)CCC1=CC=CC=C1
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Ethyl 3-(2-phenylethyl)imidazo[1,2-a]pyridine-2-carboxylate | 950 mg | C1(=CC=CC=C1)CCC1=C(N=C2N1C=CC=C2)C(=O)OCC | C18H18N2O2
